US04470986
To a solution of 50 g of 5-methylimidazo[1,5-a]pyridine [J. Org. Chem. 40, 1210 (1975)] in 625 ml of tetrahydrofuran precooled to -75° is added under nitrogen atmosphere 175 ml of 2.4N n-butyllithium in hexane while maintaining temperature below -53°. The solution of 5-(lithiomethyl)imidazo[1,5-a]pyridine, is cooled back to -75° and a solution of 121.8 g of 5-bromo-1,1,1-triethoxypentane in 125 ml of tetrahydrofuran is added rapidly at which time the temperature rises to -60°. The reaction mixture is allowed to warm to -4° over a 45 minute period and evaporated practically to dryness. The residue is partitioned between 500 ml of ethyl ether and 240 ml of 3N hydrochloric acid. The ether solution is further extracted twice with 60 ml of 3N hydrochloric acid; the combined aqueous extract is basified with 100 ml of concentrated ammonia hydroxide and reextracted twice with 200 ml of ethyl ether. The ether extract is dried over magnesium sulfate and evaporated to dryness to give an oil which is distilled under high vacuum to give 5-(5-ethoxycarbonylpentyl)-imidazo[1,5-a]pyridine boiling at 180°-5°/0.12 mm Hg.

reactant | 5-methylimidazo[1,5-a]pyridine | 50 g | CC1=CC=CC=2N1C=NC2 | C8H8N2
reactant | n-butyllithium | 2.4N, 175 ml | C(CCC)[Li]
reactant | 5-(lithiomethyl)imidazo[1,5-a]pyridine | [Li]CC1=CC=CC=2N1C=NC2
reactant | 5-bromo-1,1,1-triethoxypentane | 121.8 g | BrCCCCC(OCC)(OCC)OCC | C11H23BrO3
solvent | tetrahydrofuran | 625 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 125 ml | O1CCCC1 | C4H8O
product | 5-(5-ethoxycarbonylpentyl)-imidazo[1,5-a]pyridine | C(C)OC(=O)CCCCCC1=CC=CC=2N1C=NC2 | C15H20N2O2
